US04128560
9-Ethyl-1,2,3,4-tetrahydro-N,1-dimethylcarbazole-1-ethanamine (1; R1 and R6 = CH3, R2, R3 and R5 = H, R4 = C2H5, m = 3 and n = 1)
N-[2-(9-ethyl-1,2,3,4-tetrahydro-1-methylcarbazol-1-yl)ethyl]-N-methylformamide (2.1 g), described in Example 225, is heated at reflux in a solution of 10% KOH (50 ml) for 48 hr. After cooling the solution is rendered acidic and extracted with ether. The aqueous phase is then rendered alkaline and extracted with ether. The latter extract is dried (MgSO4) and conc. to yield the title compound, nmr (CDCl3) δ 1.4 (m, 6H), 2.37 (s, 3H), 4.3 (q, J = 7, 2H), 7.25 (m, 4H); the corresponding hydrochloric acid addition salt has mp 213°-216° C.

reactant | N-[2-(9-ethyl-1,2,3,4-tetrahydro-1-methylcarbazol-1-yl)ethyl]-N-methylformamide | 2.1 g | C(C)N1C2=CC=CC=C2C=2CCCC(C12)(C)CCN(C=O)C | C19H26N2O
solvent | KOH | 50 ml | [OH-].[K+]
product | 9-Ethyl-1,2,3,4-tetrahydro-N,1-dimethylcarbazole-1-ethanamine | C(C)N1C2=CC=CC=C2C=2CCCC(C12)(CCNC)C | C18H26N2
